US07521462B2
Add 2,2-dimethyl-oxirane (3.0 mL, 33.3 mmol) to a stirred suspension of lithium perchlorate (3.39 g, 31.9 mmol) in anhydrous acetonitrile (40 mL). Stir for one hour under nitrogen at room temperature. Add 4-{[(2,4-dichloro-thiazol-5-yl)methyl]-amino}-piperidine-1-carboxylic acid tert-butyl ester (1.1337 g, 3.10 mmol) in anhydrous acetonitrile (15 mL). Heat the reaction at reflux for 72 hours under nitrogen. Pour the reaction into saturated sodium bicarbonate (100 mL) and extract with ethyl acetate (3×100 mL). Dry the ethyl acetate over sodium sulfate and then filter off the sodium sulfate. Concentrate on a rotary evaporator and purify the crude product by flash chromatography on silica gel eluting with 30% ethyl acetate/hexanes to yield 0.4527 g (33%) of 4-{[(2,4-dichloro-thiazol-5-yl)methyl]-(2-hydroxy-2-methyl-propyl)-amino}-piperidine-1-carboxylic acid tert-butyl ester: mass spectrum (ion spray): m/z=438.2 (M+1); 1H NMR (CDCl3): δ=4.22 (br s, 2H), 3.97 (s, 2H), 2.67-2.59 (m, 3H), 2.50 (s, 2H), 1.77-1.74 (m, 2H), 1.60 (s, 2H), 1.49 (s, 9H), 1.47-1.35 (m, 1H), 1.23 (s, 6H).

reactant | 2,2-dimethyl-oxirane | 33.3 mmol, 3.0 mL | CC1(OC1)C | C4H8O
reactant | lithium perchlorate | 31.9 mmol, 3.39 g | Cl(=O)(=O)(=O)[O-].[Li+]
reactant | 4-{[(2,4-dichloro-thiazol-5-yl)methyl]-amino}-piperidine-1-carboxylic acid tert-butyl ester | 3.10 mmol, 1.1337 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NCC1=C(N=C(S1)Cl)Cl | C14H21Cl2N3O2S
reactant | sodium bicarbonate | 100 mL | C([O-])(O)=O.[Na+]
solvent | acetonitrile | 40 mL | C(C)#N | C2H3N
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
product | 4-{[(2,4-dichloro-thiazol-5-yl)methyl]-(2-hydroxy-2-methyl-propyl)-amino}-piperidine-1-carboxylic acid tert-butyl ester | 0.4527 g, 33% | C(C)(C)(C)OC(=O)N1CCC(CC1)N(CC(C)(C)O)CC1=C(N=C(S1)Cl)Cl | C18H29Cl2N3O3S
